**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Common Mode Power Line Choke
* Matchcode:              WE-CMB HV 
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-05-26
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.SUBCKT  CMB_HV  1  2  3  4  PARAMS:
+  L1=0.00060538
+  L2=0.00010035
+  L3=0.00004247
+  L4=0.00001022
+  L5=0.000000036
+  C1=0.000000000003
+  C2=0.000000000001
+  RS1=8828
+  RS2=1447
+  RS3=703
+  RS4=678
+  RS5=509
+  R2=0.11
+  DL3=0.00000031037
+  DL4=0.00000001106
+  DC3=0.00000000000019056
+  DC4=0.000000000007
+  DR3=1000
+  DR4=4500
+  DR5=11000
+  DR6=438
+  Rdc=0.43
+  ck=12.5pF  
R_R9  N12325  3  {R2}
R_R8  N13265  N13287  {Rs4}
Kn_K6  L_L11  L_L12  
+  L_L13  L_L14  0.9999
R_R3  N12571  N12583  {Rs3}
R_R10  N13777  4  {R2}
C_C10  N13029  N12821  {ck}
R_R20  N13215  N13229  {dR4}
L_L11  N12821  N12295  {dL4}
R_R17  N12267  N12273  {dR3}
L_L8  N13265  N13287  {L4}
R_R7  N13287  N13305  {Rs3}
L_L9  N12295  N12307  {L5}
Kn_K4  L_L7  L_L8  1
R_R2  N12583  N12599  {Rs2}
Kn_K5  L_L9  L_L10  1
R_R16  N13229  N13249  {dR6}
Kn_K7  L_L15  L_L16  
+  L_L17  L_L18  0.9999
C_C5  N12273  N12289  {dC4}
L_L6  N13287  N13305  {L3}
L_L7  N12307  N12571  {L4}
R_R6  N13305  N13319  {Rs2}
R_R21  1  N12257  {Rdc}
Kn_K3  L_L5  L_L6  1
L_L16  N12257  N12799  {dL3}
C_C8  N13215  N13741  {dC3}
L_L18  N13023  N13215  {dL3}
R_R1  N12599  3  {Rs1}
R_R13  N12289  N12295  {dR5}
L_L4  N13305  N13319  {L2}
L_L5  N12571  N12583  {L3}
R_R15  N13755  N13249  {dR5}
R_R5  N13319  4  {Rs1}
R_R18  N12257  N12273  {dR4}
Kn_K2  L_L3  L_L4  1
R_R19  N13741  N13229  {dR3}
L_L15  N12799  N12273  {dL3}
L_L17  N13229  N13023  {dL3}
L_L3  N12583  N12599  {L2}
R_R11  N12295  N12307  {Rs5}
L_L2  N13319  4  {L1}
C_C4  N13249  N13265  {C2}
L_L10  N13249  N13265  {L5}
Kn_K1  L_L1  L_L2  1
R_R14  N12273  N12295  {dR6}
C_C6  N13229  N13755  {dC4}
L_L12  N12273  N12821  {dL4}
L_L14  N13029  N13229  {dL4}
L_L1  N12599  3  {L1}
C_C1  N12307  N12325  {C1}
R_R12  N13249  N13265  {Rs5}
C_C2  N13265  N13777  {C1}
R_R22  2  N13215  {Rdc}
C_C9  N13023  N12799  {ck}
R_R4  N12307  N12571  {Rs4}
C_C3  N12295  N12307  {C2}
L_L13  N13249  N13029  {dL4}
C_C7  N12257  N12267  {dC3}  
.ends  CMB_HV
*****
.subckt CMBHV_XL_744830007215_700u 1 2 3 4
X1  1  2  3  4  CMB_HV  PARAMS:
+  Rdc=0.0038
+  L1=0.00066038
+  L2=0.00008035
+  L3=0.00009047
+  L4=0.00015722
+  L5=0.0000000035
+  C1=0.000000000015
+  C2=0.0000000000000002
+  RS1=3098
+  RS2=837
+  RS3=1193
+  RS4=1278
+  RS5=6490
+  R2=16
+  DL3=0.000000298
+  DC3=0.0000000000138
+  DL4=0.00000000951
+  DC4=0.0000001
+  DR3=0.19
+  DR4=1930
+  DR5=1
+  DR6=200
+  ck=0.001pF
.ends CMBHV_XL_744830007215_700u
*****
.subckt CMBHV_XL_744830010185_1m 1 2 3 4
X1  1  2  3  4  CMB_HV  PARAMS:
+  Rdc=0.0055
+  L1=0.00088038
+  L2=0.00019935
+  L3=0.00018547
+  L4=0.00022522
+  L5=0.00000000028
+  C1=0.0000000000128
+  C2=0.00000000000000014
+  RS1=5000
+  RS2=3700
+  RS3=593
+  RS4=1578
+  RS5=7490
+  R2=17
+  DL3=0.000000441
+  DC3=0.000000000015
+  DL4=0.00000000951
+  DC4=0.0000001
+  DR3=0.19
+  DR4=3550
+  DR5=1
+  DR6=200
+  ck=0.2pF
.ends CMBHV_XL_744830010185_1m
*****
.subckt CMBHV_XL_744830017132_1m7 1 2 3 4
X1  1  2  3  4  CMB_HV  PARAMS:
+  Rdc=0.01
+  L1=0.00176038
+  L2=0.00070035
+  L3=0.00009547
+  L4=0.00009922
+  L5=0.00000000025
+  C1=0.0000000000198
+  C2=0.0000000000000003
+  RS1=12128
+  RS2=837
+  RS3=1493
+  RS4=1378
+  RS5=7490
+  R2=17
+  DL3=0.0000007
+  DC3=0.00000000002
+  DL4=0.00000000951
+  DC4=0.00000001
+  DR3=0.19
+  DR4=4950
+  DR5=1
+  DR6=200
+  ck=0.2pF
.ends CMBHV_XL_744830017132_1m7
*****
.subckt CMBHV_XL_744830025103_2m5 1 2 3 4
X1  1  2  3  4  CMB_HV  PARAMS:
+  Rdc=0.018
+  L1=0.00261038
+  L2=0.00070035
+  L3=0.00095047
+  L4=0.00020022
+  L5=0.000000000275
+  C1=0.000000000022
+  C2=0.000000000027
+  RS1=23600
+  RS2=837
+  RS3=1493
+  RS4=1378
+  RS5=8490
+  R2=16
+  DL3=0.00000118
+  DC3=0.0000000000206
+  DL4=0.00000000951
+  DC4=0.0000001
+  DR3=0.19
+  DR4=7000
+  DR5=1
+  DR6=200
+  ck=0.1pF
.ends CMBHV_XL_744830025103_2m5
*****
.subckt CMBHV_XL_744830039080_3m9 1 2 3 4
X1  1  2  3  4  CMB_HV  PARAMS:
+  Rdc=0.031
+  L1=0.00339838
+  L2=0.00070035
+  L3=0.00095047
+  L4=0.00008522
+  L5=0.000000000275
+  C1=0.0000000000215
+  C2=0.0000000000275
+  RS1=37000
+  RS2=837
+  RS3=1493
+  RS4=13780
+  RS5=8490
+  R2=16
+  DL3=0.00000144
+  DC3=0.0000000000279
+  DL4=0.00000000951
+  DC4=0.0000001
+  DR3=0.19
+  DR4=9050
+  DR5=1
+  DR6=200
+  ck=0.1pF
.ends CMBHV_XL_744830039080_3m9
*****
.subckt CMBHV_XXL_744831010205_1m 1 2 3 4
X1  1  2  3  4  CMB_HV  PARAMS:
+  Rdc=0.0055
+  L1=0.00087938
+  L2=0.00008035
+  L3=0.00009547
+  L4=0.00008522
+  L5=0.000000002
+  C1=0.0000000000205
+  C2=0.0000000000000003
+  RS1=11928
+  RS2=837
+  RS3=1193
+  RS4=1278
+  RS5=6490
+  R2=12
+  DL3=0.00000062
+  DC3=0.0000000000185
+  DL4=0.00000000951
+  DC4=0.00000001
+  DR3=0.19
+  DR4=4050
+  DR5=1
+  DR6=10
+  ck=0.5pF
.ends CMBHV_XXL_744831010205_1m
*****
.subckt CMBHV_XXL_744831016164_1m6 1 2 3 4
X1  1  2  3  4  CMB_HV  PARAMS:
+  Rdc=0.0055
+  L1=0.00155038
+  L2=0.00008035
+  L3=0.00009547
+  L4=0.00008522
+  L5=0.000000002
+  C1=0.0000000000225
+  C2=0.0000000000000003
+  RS1=19928
+  RS2=837
+  RS3=1193
+  RS4=1278
+  RS5=6490
+  R2=12
+  DL3=0.00000091
+  DC3=0.0000000000246
+  DL4=0.00000000951
+  DC4=0.000000045
+  DR3=3
+  DR4=5950
+  DR5=1
+  DR6=10
+  ck=1pF
.ends CMBHV_XXL_744831016164_1m6
*****
.subckt CMBHV_XXL_744831020133_2m 1 2 3 4
X1  1  2  3  4  CMB_HV  PARAMS:
+  Rdc=0.013
+  L1=0.00186338
+  L2=0.00008035
+  L3=0.00009547
+  L4=0.00008522
+  L5=0.000000002
+  C1=0.0000000000206
+  C2=0.0000000000000003
+  RS1=24928
+  RS2=837
+  RS3=1193
+  RS4=1278
+  RS5=6490
+  R2=10
+  DL3=0.0000013
+  DC3=0.0000000000215
+  DL4=0.00000000951
+  DC4=0.000000045
+  DR3=3
+  DR4=6100
+  DR5=1
+  DR6=10
+  ck=0.01pF
.ends CMBHV_XXL_744831020133_2m
*****
.subckt CMBHV_XXL_744831034090_3m4 1 2 3 4
X1  1  2  3  4  CMB_HV  PARAMS:
+  Rdc=0.013
+  L1=0.0018
+  L2=0.00058
+  L3=0.000495
+  L4=0.000485
+  L5=0.0000000025
+  C1=0.0000000000265
+  C2=0.00000000000000025
+  RS1=48928
+  RS2=5837
+  RS3=5893
+  RS4=5878
+  RS5=6490
+  R2=10
+  DL3=0.00000205
+  DC3=0.0000000000236
+  DL4=0.00000000951
+  DC4=0.000000045
+  DR3=3
+  DR4=10580
+  DR5=1
+  DR6=10
+  ck=0.01pF
.ends CMBHV_XXL_744831034090_3m4
*****
.subckt CMBHV_XXL_744831047068_4m7 1 2 3 4
X1  1  2  3  4  CMB_HV  PARAMS:
+  Rdc=0.044
+  L1=0.00505038
+  L2=0.00008035
+  L3=0.00009547
+  L4=0.00008522
+  L5=0.000000002
+  C1=0.0000000000275
+  C2=0.0000000000000003
+  RS1=92028
+  RS2=8380050
+  RS3=1193
+  RS4=1278
+  RS5=10490
+  R2=15
+  DL3=0.00000305
+  DC3=0.0000000000288
+  DL4=0.00000000951
+  DC4=0.000000045
+  DR3=3
+  DR4=12100
+  DR5=1
+  DR6=10
+  ck=0.01pF
.ends CMBHV_XXL_744831047068_4m7
